US04587262
Using a similar procedure to that described in Example 6, but using 5-chloro-2-(2,4-dichlorophenoxy)phenol, adipoyl dichloride and 2-hydroxy-3-octanoyloxypropyl octanoate as starting materials, there was obtained 5-chloro-2-(2,4-dichlorophenoxy)phenyl 2-octanoyloxy-1-(octanoyloxymethyl)ethyl adipate as an oil in 33% yield; NMR (CDCL3): 0.85 (6H, br.s, CH3), 1.25+1.65 (24H, br.s, CH2), 2.3 (8H, m, COCH2), 4.2 (4H, m, OCH2), 5.25 (1H, m, CH), 6.6-7.5 (6H, complex, aromatic H)ppm.

reactant | 5-chloro-2-(2,4-dichlorophenoxy)phenol | ClC=1C=CC(=C(C1)O)OC1=C(C=C(C=C1)Cl)Cl | C12H7Cl3O2
reactant | adipoyl dichloride | C(CCCCC(=O)Cl)(=O)Cl | C6H8Cl2O2
reactant | 2-hydroxy-3-octanoyloxypropyl octanoate | C(CCCCCCC)(=O)OCC(COC(CCCCCCC)=O)O | C19H36O5
product | 5-chloro-2-(2,4-dichlorophenoxy)phenyl 2-octanoyloxy-1-(octanoyloxymethyl)ethyl adipate | 33% yield | C(CCCCC(=O)OC(COC(CCCCCCC)=O)COC(CCCCCCC)=O)(=O)OC1=C(C=CC(=C1)Cl)OC1=C(C=C(C=C1)Cl)Cl | C37H49Cl3O9
